US06528653B2
5,6-Dihydro-5-oxo-4H-thieno[2,3-b]pyrrole-2-carboxamide (30 mg, 0.17 mmol) was dissolved in a solution of 1% piperidine in 2-propanol (2 ml). 3-Phenyl-1H-pyrazole-4-carboxaldehyde (0.18 mmol, 31 mg) was added in one portion and the mixture heated at 75° C. for 1 hour. The reaction mixture was poured into an ice/water mixture (2 ml) and the precipitated solid was collected by filtration and washed with water to give 26 mg of (Z)-5,6-dihydro-5-oxo-4-[(3-phenyl-1H-pyrazol-4-yl)methylene]-4H-thieno[2,3-b]pyrrole-2-carboxamide as a yellow/brown solid. MS(ES): m/e 337 [M+H].

reactant | 5,6-Dihydro-5-oxo-4H-thieno[2,3-b]pyrrole-2-carboxamide | 0.17 mmol, 30 mg | O=C1CC2=C(N1)SC(=C2)C(=O)N | C7H6N2O2S
reactant | 3-Phenyl-1H-pyrazole-4-carboxaldehyde | 0.18 mmol, 31 mg | C1(=CC=CC=C1)C1=NNC=C1C=O | C10H8N2O
solvent | piperidine | N1CCCCC1 | C5H11N
solvent | 2-propanol | 2 ml | CC(C)O | C3H8O
product | (Z)-5,6-dihydro-5-oxo-4-[(3-phenyl-1H-pyrazol-4-yl)methylene]-4H-thieno[2,3-b]pyrrole-2-carboxamide | 26 mg | O=C1\C(\C2=C(N1)SC(=C2)C(=O)N)=C/C=2C(=NNC2)C2=CC=CC=C2 | C17H12N4O2S
